US05580863
With 4-nitrobenzylphosphonic acid and 2,2-diethyl-1,3-propanediol, the same procedure as in Reference Example 11 was followed, to yield 5,5-diethyl-2-(4-nitrobenzyl)-1,3,2-dioxaphosphorinane-2-oxide, which was then recrystallized from ethanol-hexane to yield colorless prisms having a melting point of159° to 160° C.

reactant | 4-nitrobenzylphosphonic acid | [N+](=O)([O-])C1=CC=C(CP(O)(O)=O)C=C1 | C7H8NO5P
reactant | 2,2-diethyl-1,3-propanediol | C(C)C(CO)(CO)CC | C7H16O2
product | 5,5-diethyl-2-(4-nitrobenzyl)-1,3,2-dioxaphosphorinane-2-oxide | C(C)C1(COP(OC1)(CC1=CC=C(C=C1)[N+](=O)[O-])=O)CC | C14H20NO5P
